US07781434B2
c) 7-chloro-2-((S)-1-cyclopropylethyl)-5-(2-(trimethylsilyl)ethynyl)isoindolin-1-one
5-bromo-7-chloro-2-((S)-1-cyclopropylethyl)isoindolin-1-one (5.0 g, 15.89 mmol) was placed in a 3-neck flask, fitted with an internal thermocouple and dissolved in 150 mL of degassed diisopropyl amine. To this solution was added copper (II) acetate (0.14 g, 0.79 mmol), triphenylphosphine (0.417 g, 1.59 mmol) and bis(benzonitrile)dichloropalladium (II) (0.30 g, 0.79 mmol). Finally, ethynyltrimethylsilane (4.84 mL, 34.96 mmol) was added dropwise over a 20-min period. After the addition of the silane was complete, the reaction mixture was heated to and held at 65° C. until starting material was consumed (as monitored by LC/MS). The reaction was allowed to cool to room temperature and the volatiles were removed under reduced pressure. The material was then filtered through a glass frit and the remaining solids in the frit were rinsed with diethyl ether. The volatiles were again removed under reduced pressure and the concentrated residue was purified by flash chromatography on silica gel eluting with 0 to 40% ethyl acetate in hexane. This afforded the title compound as a tan solid (4.90 g, 93%). 1H NMR (300 MHz, CDCl3) δ ppm 0.18-0.22 (m, 9H) 0.29-0.43 (m, 3H) 0.53-0.62 (m, 1H) 0.88-1.01 (m, 1H) 1.27 (d, 3H) 3.69 (dq, 1H) 4.33 (q, 2 H) 7.35 (d, 1H) 7.42 (s, 1H). MS ESI, m/z=332 (M+H). HPLC Method A: 1.05 min.

reactant | 5-bromo-7-chloro-2-((S)-1-cyclopropylethyl)isoindolin-1-one | 15.89 mmol, 5.0 g | BrC=1C=C2CN(C(C2=C(C1)Cl)=O)[C@@H](C)C1CC1 | C13H13BrClNO
reactant | triphenylphosphine | 1.59 mmol, 0.417 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethynyltrimethylsilane | 34.96 mmol, 4.84 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | silane | [SiH4] | H4Si
solvent | diisopropyl amine | 150 mL | C(C)(C)NC(C)C | C6H15N
catalyst | copper (II) acetate | 0.79 mmol, 0.14 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | bis(benzonitrile)dichloropalladium | 0.79 mmol, 0.30 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
product | 7-chloro-2-((S)-1-cyclopropylethyl)-5-(2-(trimethylsilyl)ethynyl)isoindolin-1-one | 4.90 g, 93% | ClC=1C=C(C=C2CN(C(C12)=O)[C@@H](C)C1CC1)C#C[Si](C)(C)C | C18H22ClNOSi
